US08440666B2
4-Bromo-2-{2-[4-(diethylamino)phenyl]-2-(methoxyimino)ethyl}-5-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-3(2H)-one
4-Bromo-2-{2-[4-(diethylamino)phenyl]-2-oxoethyl}-5-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-3(2H)-one (50 mg, 0.097 mmol) and methoxamine hydrochloride (41 mg, 0.485 mmol) in ethanol (0.5 mL) were stirred at 80° C. for 1 hour. After cooling, ethyl acetate was added, and the organic layer was washed with saturated aqueous ammonium chloride and saturated aqueous sodium chloride and dried over anhydrous sodium sulfate. The solvent was removed by distillation. The resulting residue was purified by silica gel chromatography (hexane/ethyl acetate=3/1) to give the desired product (56 mg, 100% yield).

reactant | 4-Bromo-2-{2-[4-(diethylamino)phenyl]-2-oxoethyl}-5-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-3(2H)-one | 0.097 mmol, 50 mg | BrC=1C(N(N=CC1N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C)CC(=O)C2=CC=C(C=C2)N(CC)CC)=O | C26H35BrN4O2
reactant | methoxamine hydrochloride | 0.485 mmol, 41 mg | CC(C(C=1C=C(C=CC1OC)OC)O)N.Cl
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
product | 4-Bromo-2-{2-[4-(diethylamino)phenyl]-2-(methoxyimino)ethyl}-5-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-3(2H)-one | 56 mg, 100% yield | BrC=1C(N(N=CC1N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C)CC(=NOC)C2=CC=C(C=C2)N(CC)CC)=O | C27H38BrN5O2
